US09216968B2
Under argon atmosphere, potassium tert-butoxide (168 mg) was added to a solution of 2-isopropoxyethanol (172 μL) in NMP (1.5 mL). The mixture was stirred at room temperature for 10 minutes, 2-chloro-5-fluorobenzoic acid (87 mg) was added, and it was then stirred at 130° C. for 4 hours. The reaction mixture was cooled on ice bath, water was added, and it was then acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was separated, washed with brine, and dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain crude 2-chloro-5-[2-(propan-2-yloxy)ethoxy]benzoic acid. This was dissolved in DMF (2 mL), HATU (61 mg), N,N-diisopropylethylamine (29 μL) and 6-amino-N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-1H-benzimidazole-4-carboxamide (50 mg) were added in this order, and it was stirred at room temperature for 12 hours. The reaction mixture was poured into saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The organic layer was separated, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain N-(3-chloro-2-methylphenyl)-6-[({2-chloro-5-[2-(propan-2-yl oxy)ethoxy]phenyl}carbonyl)amino]-2-(methoxymethyl)-1H-benz imidazole-4-carboxamide (41 mg) as white powder. This was dissolved in ethyl acetate (2 mL), and treated with 4N hydrogen chloride/ethyl acetate (1.2 Eq). The precipitate was collected by filtration, and dried to obtain the titled compound (28 mg) as white powder.

reactant | potassium tert-butoxide | 168 mg | CC(C)([O-])C.[K+]
reactant | 2-isopropoxyethanol | 172 μL | C(C)(C)OCCO | C5H12O2
reactant | 2-chloro-5-fluorobenzoic acid | 87 mg | ClC1=C(C(=O)O)C=C(C=C1)F | C7H4ClFO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 2-chloro-5-[2-(propan-2-yloxy)ethoxy]benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)OCCOC(C)C | C12H15ClO4
